US07317125B2
Preparation of benzoic acid N′-[2-(biphenyl-2-ylsulfanyl)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide (50 mg, 0.123 mmol) in DME (4 ml)/2M Na2CO3 (0.215 ml, 0.43 mmoles) was treated with phenylboronic acid (30 mg, 0.25 mmol) and Pd[PPh3]4 (14 mg, 0.012 mmol) for 12 hours at 90° C. Additional amounts of Pd[PPh3]4 (28 mg, 0.025 mmol) and 2M Na2CO3 (0.215 ml, 0.43 mmoles) were added and the mixture was stirred at 90° C. for another night. The reaction mixture was partitioned between water and DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was adsorbed on silica and purified on a silica gel column with a 20-50% ethyl acetate/hexane gradient. Further purification by RP HPLC afforded the product (7.2 mg, 15%). MS m/e 405.26 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | 0.123 mmol, 50 mg | BrC1=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C18H19BrN2O2S
reactant | Na2CO3 | 0.43 mmoles, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | phenylboronic acid | 0.25 mmol, 30 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 0.43 mmoles, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 4 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(biphenyl-2-ylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | 7.2 mg, 15% | C1(=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C)C1=CC=CC=C1 | C24H24N2O2S
